US09238644B2
(c) 1-(1-Methylpyrrolidin-3-yl)-1H-pyrazol-4-amine (A24)
A solution of 1-(1-methylpyrrolidin-3-yl)-4-nitro-1H-pyrazole A23 (0.575 g, 2.93 mmol) and 10% Pd/C (0.061 g) in EtOH (15 mL) was stirred under a hydrogen atmosphere for 16 hours. The reaction mixture was filtered through Celite and the solvent was removed in vacuo to give the title compound A24 as a red oil (0.555 g, quantitative). 1H NMR (300 MHz, MeOD) δ 2.27-2.42 (m, 1H), 2.72-2.76 (m, 2H), 3.02-3.10 (m, 1H), 3.46-3.55 (m, 1H), 3.70-3.85 (m, 4H), 5.14-5.26 (m, 1H), 7.33 (s, 1H), 7.46 (m, 1H).

reactant | 1-(1-methylpyrrolidin-3-yl)-4-nitro-1H-pyrazole | CN1CC(CC1)N1N=CC(=C1)[N+](=O)[O-] | C8H12N4O2
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 0.061 g | [Pd] | Pd
product | 1-(1-Methylpyrrolidin-3-yl)-1H-pyrazol-4-amine | CN1CC(CC1)N1N=CC(=C1)N | C8H14N4
